US08097628B2
(b) N-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-3-nitro-2-pyridinamine
2-{[6-(Methyloxy)-3-nitro-2-pyridinyl]amino}-1,3-propanediol (53.93 g, 228.7 mmol) was stirred in 2,2-dimethoxypropane (900 ml) under argon and p-toluenesulphonic acid monohydrate (1.00 g) was added. The mixture was stirred at room temperature overnight to give a clear yellow solution. This was with diluted with DCM (1 L) and the resulting solution was treated with saturated aqueous NaHCO3 (20 ml) and solid NaHCO3 (20 g) with vigorous stirring (effervescence). The mixture was vigorously stirred for 20 minutes, then the remaining water was absorbed by addition of anhydrous Na2SO4. The mixture was filtered with suction and the solids were washed with DCM (500 ml). The combined filtrate plus washings were evaporated under reduced pressure to give a yellow solid which was stirred with petroleum ether (40-60°) over the weekend. The solid was isolated by filtration with suction, washed with petroleum ether (40-60°) and air-dried to give the title compound as a bright yellow solid (57.83 g, 92%).

reactant | 2-{[6-(Methyloxy)-3-nitro-2-pyridinyl]amino}-1,3-propanediol | 228.7 mmol, 53.93 g | COC1=CC=C(C(=N1)NC(CO)CO)[N+](=O)[O-] | C9H13N3O5
reactant | NaHCO3 | 20 ml | C(=O)(O)[O-].[Na+]
reactant | NaHCO3 | 20 g | C(=O)(O)[O-].[Na+]
reactant | 2,2-dimethoxypropane | 900 ml | COC(C)(C)OC | C5H12O2
solvent | DCM | 1 L | C(Cl)Cl | CH2Cl2
catalyst | p-toluenesulphonic acid monohydrate | 1.00 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | N-(2,2-Dimethyl-1,3-dioxan-5-yl)-6-(methyloxy)-3-nitro-2-pyridinamine | 57.83 g, 92% | CC1(OCC(CO1)NC1=NC(=CC=C1[N+](=O)[O-])OC)C | C12H17N3O5
